US07419984B2
4-[2-Amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin4-ylamino]-benzonitrile
Following the method described in Example 53, 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine and 4-amino-benzonitrile provided the title compound (74% yield). 1H NMR (DMSO-d6) δ 1.41 (t, 3H, J=6.9 Hz, CH3), 4.15 (q, 2H, J=7.0 Hz, CH2), 6.53 (s, 2H, NH2), 6.84 (s, 1H, Ar), 7.17 (d, 1H, J-8.9 Hz, Ar), 7.43 (dd, 1H, J=8.8, 2.9 Hz, Ar), 7.71 (d, 2H, J=8.9 Hz, Ar), 7.92 (d, 1H, J=2.9 Hz, Ar), 8.00 (d, 2H, J=8.9 Hz, Ar), 9.70 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)OCC)N | C12H11Cl2N3O
reactant | 4-amino-benzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
product | 4-[2-Amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin4-ylamino]-benzonitrile | 74% yield | NC1=NC(=CC(=N1)NC1=CC=C(C#N)C=C1)C1=C(C=CC(=C1)Cl)OCC | C19H16ClN5O
